US08278320B2
Step A: 6-(Pyridin-3-yl)pyrimidin-4-amine
A mixture of 6-chloropyrimidin-4-amine (0.324 g, 2.5 mmol), pyridin-3-ylboronic acid (0.385 g, 3.13 mmol), Na2CO3 (0.795 g, 7.5 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.035 g, 0.05 mmol) were suspended in a mixture of dioxane/EtOH/water. The mixture was heated in the microwave synthesizer at 125° C. for 20 min (reaction was run twice) and concentrated. The residue was purified on by silica gel chromatography using a 10-60% ethyl acetate/hexanes gradient, followed by a 5-25% 9:1 methanol:ammonium hydroxide in ethyl acetate gradient. The desired fractions were concentrated to give an off-white solid. MS(LC/MS) R.T.=0.28; (M+H=173.13).

reactant | 6-chloropyrimidin-4-amine | 2.5 mmol, 0.324 g | ClC1=CC(=NC=N1)N | C4H4ClN3
reactant | pyridin-3-ylboronic acid | 3.13 mmol, 0.385 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 7.5 mmol, 0.795 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane EtOH water | O1CCOCC1.CCO.O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.05 mmol, 0.035 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(Pyridin-3-yl)pyrimidin-4-amine | N1=CC(=CC=C1)C1=CC(=NC=N1)N | C9H8N4
